US06828322B2
7-(3-Fluorophenyl)-3-(2-fluorophenyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine
A stirred mixture of 7-bromo-3-(2-fluorophenyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo [4,3-b]pyridazine (50.2 mg, 0.124 mmol), 3-fluorobenzeneboronic acid (24.7 mg, 0.177 mmol), potassium phosphate (74.1 mg, 0.339 mmol), and tetrakis(triphenylphosphine)-palladium(0) (11.5 mg, 0.00995 mmol) in anhydrous DMF (3 ml) was degassed by evaporating and refilling the flask with nitrogen four times, then heated at 100° C. under nitrogen for 14.5 h. The mixture was partitioned between ethyl acetate (20 ml) and brine (15 ml). The aqueous layer was further extracted with ethyl acetate (2×20 ml) and the combined organic extracts were evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 2% MeOH/CH2Cl2) to afford 18.1 mg (35%) of the title compound as a white solid: m.p. 204-206° C. (CH2Cl2-EtOAc-hexane); 1H NMR (360 MHz, CDCl3) δ 3.70 (3H, s), 5.54 (2H, s), 7.18 (1H, m), 7.28-7.40 (4H, m), 7.46 (1H, m), 7.58 (1H, m), 7.86 (1H, s), 7.88 (1H, td, J=7.5 and 1.8 Hz), 8.08 (1H, s); MS (ES+) m/e 420 [MH]+.

reactant | 7-bromo-3-(2-fluorophenyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo [4,3-b]pyridazine | 0.124 mmol, 50.2 mg | BrC1=CC=2N(N=C1OCC=1N(N=CN1)C)C(=NN2)C2=C(C=CC=C2)F | C15H11BrFN7O
reactant | 3-fluorobenzeneboronic acid | 0.177 mmol, 24.7 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | potassium phosphate | 0.339 mmol, 74.1 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.00995 mmol, 11.5 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 7-(3-Fluorophenyl)-3-(2-fluorophenyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine | 18.1 mg, 35% | FC=1C=C(C=CC1)C1=CC=2N(N=C1OCC=1N(N=CN1)C)C(=NN2)C2=C(C=CC=C2)F | C21H15F2N7O
